US04840947
9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
1-(2-Formamido-4-methylphenyl)indoline (34 gm) in phosphorous oxychloride (220 ml) was heated at 100° C. (steam bath) for 2.5 hours, during which the product precipitated. The mixture was cooled to room temperature and ether (400 ml) was added and the excess phosphorous oxychloride was removed by filtration. The solids were washed with ether (3×400 ml) and thereafter dissolved in a mixed solvent of 10% triethylamine/dichloromethane (1.2 L). The organic solution was washed with 10% sodium hydroxide solution (350 ml), water (400 ml) and brine (600 ml), and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to leave an oil (28 gm). The oil was purified by flash chromatography over silica gel (320 gm, eluted with dichloromethane, 6 L). The resultant oil turned into crystals on shaking with ether (150 ml). The crystals were collected and dried to afford 25.9 gm, m.p. 77°-78° C.

reactant | 1-(2-Formamido-4-methylphenyl)indoline | 34 gm | C(=O)NC1=C(C=CC(=C1)C)N1CCC2=CC=CC=C12 | C16H16N2O
solvent | phosphorous oxychloride | 220 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 28 gm | CC1=CC2=C(N3C4=C(C=N2)C=CC=C4CC3)C=C1 | C16H14N2
